US07605272B2
(1H-Indazol-3-ylmethyl)triphenylphosphonium bromide (0.64 g, 1.3 mmol) was dissolved in methanol (8.0 mL) and the solution was added with 4-(morpholin-4-yl)-2-nitrobenzaldehyde (0.35 g, 1.5 mmol) and potassium carbonate (0.37 g, 2.7 mmol), followed by stirring at room temperature for 1 hour. The reaction mixture was added with water and the precipitated solid was collected by filtration and dried. The obtained solid was triturated in methanol to obtain (E)-3-([2-[4-(morpholin-4-yl)-2-nitrophenyl]vinyl]-1H-indazole (0.41 g, 86%).

reactant | (1H-Indazol-3-ylmethyl)triphenylphosphonium bromide | 1.3 mmol, 0.64 g | [Br-].N1N=C(C2=CC=CC=C12)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-(morpholin-4-yl)-2-nitrobenzaldehyde | 1.5 mmol, 0.35 g | N1(CCOCC1)C1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C11H12N2O4
reactant | potassium carbonate | 2.7 mmol, 0.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | methanol | 8.0 mL | CO | CH4O
product | [2-[4-(morpholin-4-yl)-2-nitrophenyl]vinyl]-1H-indazole | 0.41 g, 86% | N1(CCOCC1)C1=CC(=C(C=C1)C=CN1N=CC2=CC=CC=C12)[N+](=O)[O-] | C19H18N4O3
